US08937077B2
4-[({[(3aR,7aR)-1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)octahydro-4H-pyrrolo[3,2-b]pyridin-4-yl]carbonyl}amino)methyl]benzoic acid (TFA salt)
To methyl 4-[({[(3aR,7aR)-1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)octahydro-4H-pyrrolo[3,2-b]pyridine-4-yl]carbonyl}amino)methyl]benzoate (TFA salt) from Example 23 (8.2 mg, 0.015 mmol) was added MeOH (75 μL) and aqueous lithium hydroxide (299 μL, 0.149 mmol, 2.0 M) solution at 22° C. The reaction was stirred for 18 hours before being concentrated and dissolved in DMSO (2.0 mL). The resulting solution was purified by mass triggered reverse phase HPLC. Lyophilization of the desired fractions gave the title compound (TFA salt). LRMS calc'd for C22H25N6O3 [M+H]+, 421; found 421. Jak1 activity: +.

reactant | methyl 4-[({[(3aR,7aR)-1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)octahydro-4H-pyrrolo[3,2-b]pyridine-4-yl]carbonyl}amino)methyl]benzoate | N1=CN=C(C2=C1NC=C2)N2CC[C@H]1N(CCC[C@H]12)C(=O)NCC1=CC=C(C(=O)OC)C=C1 | C23H26N6O3
reactant | lithium hydroxide | 0.149 mmol, 2.0 M, 299 μL | [OH-].[Li+]
solvent | MeOH | 75 μL | CO | CH4O
product | 4-[({[(3aR,7aR)-1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)octahydro-4H-pyrrolo[3,2-b]pyridin-4-yl]carbonyl}amino)methyl]benzoic acid | N1=CN=C(C2=C1NC=C2)N2CC[C@H]1N(CCC[C@H]12)C(=O)NCC1=CC=C(C(=O)O)C=C1 | C22H24N6O3
